US05972978
A mixture of 3-hydroxybenzaldehyde (6.02 g, 49 mmol), 4-phenyl-benzylchloride (10 g, 49 mmol) and potassium carbonate (20 g, 148 mmol) in N,N'-dimethylformamide (100 ml) was stirred at room temperature for 16 h. The mixture was poured into water (500 ml) and stirred for 1 h. The solid formed was filtered off, washed with water (2×200 ml) and heptane (2×75 ml) and dried in vacuo at 50° C. for 16 h affording 12.3 g (87%) of 3-(biphenyl-4-ylmetoxy)benzaldehyde as a solid. TLC showed presence of unchanged 4-phenylbenzylchloride.

reactant | 3-hydroxybenzaldehyde | 49 mmol, 6.02 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 4-phenyl-benzylchloride | 49 mmol, 10 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | potassium carbonate | 148 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
product | 3-(biphenyl-4-ylmetoxy)benzaldehyde | 12.3 g, 87% | C1(=CC=C(C=C1)COC=1C=C(C=O)C=CC1)C1=CC=CC=C1 | C20H16O2
